US06670386B2
17A. Thiazolidine-4-carboxylic acid methyl ester
Hydrogen chloride gas was bubbled through a suspension of L-thioproline (990 mg, 7.55 mmol) in MeOH (30 mL) cooled at 0° C. for 5 min. The resulting clear solution was stirred at RT for 2 h, then concentrated carefully under reduced pressure. The obtained residue was dried in vacuo overnight to give a white solid, which was dissolved in MeOH (30 mL) and treated with Diaion® WA21J resin (6 g). The resulting suspension was stirred at RT for 30 min, then filtered. The filtrate was concentrated carefully under reduced pressure and the oily residue stripped with toluene (2×) to give a colorless oil.

reactant | Hydrogen chloride | Cl | ClH
reactant | L-thioproline | 7.55 mmol, 990 mg | N1[C@H](C(=O)O)CSC1 | C4H7NO2S
reactant | MeOH | 30 mL | CO | CH4O
reactant | MeOH | 30 mL | CO | CH4O
product | Thiazolidine-4-carboxylic acid methyl ester | COC(=O)C1NCSC1 | C5H9NO2S
